US09326973B2
Cap-11: 3,3-difluoro-2,2-dimethylpropanoic acid
A stirred suspension of benzyl 3,3-difluoro-2,2-dimethylpropanoate (340 mg, 1.49 mmol) and 10% Pd—C (42 mg, 0.04 mmol) in EtOAc (20 mL) was hydrogenated under balloon pressure overnight. The suspension was filtered and the filtrate was evaporated to dryness to afford Cap-11 as a white solid (205 mg). 1H NMR (400 MHz, chloroform-d) δ 6.01 (t, J=1.0 Hz, 1H), 2.07 (br. s, 1H), 1.34 (t, J=1.0 Hz, 6H).

reactant | benzyl 3,3-difluoro-2,2-dimethylpropanoate | 1.49 mmol, 340 mg | FC(C(C(=O)OCC1=CC=CC=C1)(C)C)F | C12H14F2O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 0.04 mmol, 42 mg | [Pd] | Pd
product | 3,3-difluoro-2,2-dimethylpropanoic acid | 205 mg | FC(C(C(=O)O)(C)C)F | C5H8F2O2
